US06864396B2
A mixture of 694.76 grams of aluminum chloride, 270.6 grams of benzene-1,2,4,5-tetracarboxylic acid dianhydride (pyromellitic dianhydride), and 1722.0 grams of 1,2-dichloroethane was stirred at 15° C. A mixture of 507.04 grams of (3,5,5-trimethylhexyl)benzene, 173.17 grams of N,N-diisopropylethylamine and 676.4 mL of 1,2-dichloroethane was added to the reaction over a period of 3.5 hours keeping the reaction temperature between 15° C. and 20° C. The mixture was allowed to stir overnight at room temperature and then added to 1200 g of ice and 1200 mL concentrated hydrochloric acid and stirred for 3 hours. The mixture was extracted with ethyl acetate and the ethyl acetate was washed several times with water. The organic phase was dried with magnesium sulfate and stripped to give a clear thick yellow slurry. To this was added 200 mL ethyl acetate followed by 600 mL of heptane and stirred for 15 minutes. The solid was collected by filtration to give 2,5-bis(4-(3,5,5-trimethylhexyl)benzoyl)terephthalic acid.

reactant | aluminum chloride | 694.76 grams | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | benzene-1,2,4,5-tetracarboxylic acid dianhydride | 270.6 grams | C1=C2C(=CC3=C1C(=O)OC3=O)C(=O)OC2=O | C10H2O6
reactant | (3,5,5-trimethylhexyl)benzene | 507.04 grams | CC(CCC1=CC=CC=C1)CC(C)(C)C | C15H24
reactant | N,N-diisopropylethylamine | 173.17 grams | C(C)(C)N(C(C)C)CC | C8H19N
reactant | hydrochloric acid | 1200 mL | Cl | ClH
solvent | heptane | 600 mL | CCCCCCC | C7H16
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | 1,2-dichloroethane | 676.4 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 1722.0 grams | ClCCCl | C2H4Cl2
product | 2,5-bis(4-(3,5,5-trimethylhexyl)benzoyl)terephthalic acid | CC(CCC1=CC=C(C(=O)C2=C(C(=O)O)C=C(C(=C2)C(=O)O)C(C2=CC=C(C=C2)CCC(CC(C)(C)C)C)=O)C=C1)CC(C)(C)C | C40H50O6
